2194-09-18 23:43:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   34W fervers, HA, ST starting late [**Month (only) **]. Presented to ER early [**Month (only) **]
   and discharged. Symptoms worsened and testing for flu which was
   positive. Again presented to ER [**9-13**] and admitted to ICU for resp
   distress. Tested again pos for flu and mycoplamsa IgM. CT-A showed
   bilateral basal consolidation, small effusions and splenomegaly.
   Treated with vanco and zosyn then vanco and levoflox.
   She developed a transaminitis and had a MRCP. This showed
   hepatosplenomegaly and evidence of postal hypertension. Hepatitis was
   thought to be due to mycoplamsa. Also pancytopenia presumably due to
   sepsis.
   Currently, complains of dry throat, worsening abdominal pain and
   distension, worsening dyspnea.
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Compazine (Injection) (Prochlorperazine Edisylate)
   itching;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-9-18**] 10:27 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2194-9-18**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Crohn's - on imuran and pentasa
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-9-18**] 11:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 115 (112 - 118) bpm
   BP: 126/73(83) {115/68(80) - 126/78(86)} mmHg
   RR: 43 (25 - 46) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             159 mL
   PO:
             TF:
   IVF:
   109 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    130 mL
   Urine:
   130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.44/29/64/18/-2
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Distended, Tender: diffusely
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   197 K/uL
   42 mg/dL
   0.8 mg/dL
   18 mEq/L
   4.9 mEq/L
   21 mg/dL
   103 mEq/L
   131 mEq/L
   27
   10.2 K/uL
        [image002.jpg]
                             [**2194-9-18**]  07:47 PM
                             [**2194-9-18**]  08:13 PM
   WBC
   10.2
   Hct
   27.7
   27
   Plt
   197
   Cr
   0.8
   TCO2
   20
   Glucose
   38
   42
   Other labs: PT / PTT / INR:17.7/68.7/1.6, ALT / AST:[**Telephone/Fax (1) 8919**], Alk Phos
   / T Bili:196/7.7, Differential-Neuts:57.0 %, Band:23.0 %, Lymph:10.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:6.7 mmol/L, Albumin:1.9 g/dL,
   LDH:2046 IU/L, Ca++:7.3 mg/dL, Mg++:3.0 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: ascites fluid not consistent with SBP
   Imaging: CXR low lung volumes
   chest CT [**9-14**] - pathchy GGO's, bilbasilar consolidation, small
   effusions
   ECG: ST
   Assessment and Plan
   Resp distress - related to infiltrates (likely combo of flu and
   superinfection), small effusions, abdominal distension. Will continue
   broad spectrum antibiotics - vanco, zosyn and azithro. Will consider
   BIPAP. Completed 5 days of tamiflu today.
   Liver dysfunction - both elevated transaminases and TBili. Unclear
   explanation - Hepatology to weigh in. Will follow glucose, LFTs, ABG,
   renal function. Lactulose to be started. Will image abdomen and decide
   on therapeutic paracentesis.
   Crohn's / immunosuppression - will hold imuran and pentasa.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2194-9-18**] 07:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2194-09-19 10:40:00 Physician Attending Progress Note
Chief Complaint: Fulminant liver failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: States she was taking 8 tabs of tylenol/day for 8 days prior to
   presentation to [**Location (un) 3**] hosptial 5 days ago.
   24 Hour Events:
   Overnight. CT torso, with bilateral consolidation at bases. Evidence of
   colitis on CT, gall bladder edema. Diagnostic paracentesis performed.
   Started on NIPPV, and tolerated this.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Compazine (Injection) (Prochlorperazine Edisylate)
   itching;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2194-9-18**] 10:27 PM
   Metronidazole - [**2194-9-19**] 02:54 AM
   Acyclovir - [**2194-9-19**] 04:05 AM
   Vancomycin - [**2194-9-19**] 09:25 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2194-9-19**] 02:37 AM
   Dextrose 50% - [**2194-9-19**] 09:46 AM
   Other medications:
   colace, lactulose, vanco, zosyn, azithromycin, flagyl, acyclovir.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-9-19**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 124 (112 - 124) bpm
   BP: 119/72(82) {115/66(76) - 134/78(91)} mmHg
   RR: 51 (25 - 51) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    992 mL
                                                                    975 mL
   PO:
             TF:
   IVF:
                                                                    942 mL
                                                                    875 mL
   Blood products:
   Total out:
                                                                    130 mL
                                                                    675 mL
   Urine:
                                                                    130 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    862 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 572 (520 - 582) mL
   PS : 8 cmH2O
   RR (Spontaneous): 43
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.44/28/67/18/-3
   Ve: 23.1 L/min
   PaO2 / FiO2: 134
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases), tachypneic
   Abdominal: Soft, Distended, Tender: RUQ, LUQ
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   176 K/uL
   64 mg/dL
   0.8 mg/dL
   18 mEq/L
   5.2 mEq/L
   21 mg/dL
   106 mEq/L
   135 mEq/L
   25.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2194-9-18**]  07:47 PM
                             [**2194-9-18**]  08:13 PM
                             [**2194-9-19**]  12:48 AM
                             [**2194-9-19**]  02:06 AM
                             [**2194-9-19**]  07:51 AM
   WBC
   10.2
   8.4
   8.5
   Hct
   27.7
   27
   26
   23.6
   25.2
   Plt
   197
   178
   176
   Cr
   0.8
   0.8
   TCO2
   20
   20
   Glucose
   38
   42
   64
   Other labs: PT / PTT / INR:18.5/58.1/1.7, ALT / AST:[**Telephone/Fax (1) 8935**], Alk Phos
   / T Bili:176/8.4, Amylase / Lipase:69/52, Differential-Neuts:57.0 %,
   Band:23.0 %, Lymph:10.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:5.5
   mmol/L, Albumin:2.0 g/dL, LDH:2039 IU/L, Ca++:6.8 mg/dL, Mg++:2.8
   mg/dL, PO4:2.1 mg/dL
   Imaging: Reviewed Chest CT and Abdominal CT
   Assessment and Plan
 HEPATIC FAILURE, FULMINANT: with asterixis, hypoglycemia,LFTs rising,
   but lactate trending down.
   Etiology unclear, HSV vs hepatosplenic lymphoma, CT with no evidence of
   [**Male First Name (un) 2717**] chiari, possibly some superimposed tyelnol toxicity but now too far
   out to treat with NAC, other viral serologies pending, autoimmune
   hepatitis serologies. ID consult pending. On Acylcovir. Close
   monitoring of mental status, hypoglycemia, LFTs, bili and coags q6,
   monitor urine output, and lactate, and VBG. Consulting heme for ?
   hepatosplenic lymphoma.
 PNEUMONIA, OTHER:
   plan for elective intubation, prior to IR procedure. Continue broad
   spectrum antibiotics with vanco/zosyn/flagyl. Holding all
   immunesuppressants.
 Fever: pancultured on broadspectrum antiobitics
 Pancytopenia: continue to trend, ? related to viral process, vs
   lymphoma, vs immuran effect vs other.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   PICC Line - [**2194-9-18**] 07:10 PM
   20 Gauge - [**2194-9-18**] 11:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Her resp status remained severe overnight though she was adequately
   oxygenating and ventilating with the help of BiPAP. The decision was
   made to perform a liver biopsy therefore she was intubated for the
   procedure. She is undergoing the biopsy currently. Her liver function
   has worsened.
   Exam: T103, HR 119, 90/50, 99% AC 12/550/0.8/5
   Intubated, sedated
   Neck supple
   Hrt tachy
   Lung clear anteriorly
   Abd benign
   Extreme no edema
   Labs reviewed and recorded above
   Imaging: CXR reviewed, ETT ok, scattered infiltrates
   Problems: resp failure, pna, flu, liver failure, ? Crohn
s flare,
   pancytopenia
   Agree with plan to continue vent support, cont antibiotics, ID to weigh
   in, liver biopsy, bone marrow biopsy
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 41 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2194-9-19**] 16:16 ------

2194-09-20 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ID consulted and added on VZV, adenovirus PCR, urine legionella,
   rimantidine 100mg QD, stool enterovirus these were ordered. Dr. [**Last Name (STitle) **]
   is working on getting mycoplasma PCR. Also advised that Husband, Mother
   and baby should get prophylaxis. If CXR blossoms should consider
   disseminated PCP.
   [**Name Initial (NameIs) **] Hepatology saw pt. and pt. went for transjugular Liver Bx which was
   nonspecific on initial touch prep, did not show lymphoma. Dr. [**Last Name (STitle) 356**] was
   very concerned for hepatosplenic lymphoma which would be the only
   indication that would not require transplant. Plan is to check final
   liver Bx and if negative get BM biopsy, heme has already been consulted
   and thinks lymphoma unlikely.
   - Trended Q6 LFTs and Coags, coags worsened but bili/AST trended down.
   - Became progressively hypoglycemic to 44 and started D5NS at 100cc/hr
   - Had CVL placed with Liver Bx.
   - UOP remained about 30cc/hr
   - PM lytes showed acute renal failure, stable bicarb
   - Peripheral flow cytometry was sent
   - CT head negative
   - Ophtho consulted and did bedside exam w/ no [**Location (un) 8953**]-Fleischer rings,
   but mild blurring of optic disc w/ hemorrage on disc so got neuro
   consult for management of increased ICP. They recommended MRV to check
   for venous sinus thrombosis.
   - Lactate remained stable
   - Transplant surgery recommended transfer to their service, Dr. [**Last Name (STitle) 356**]
   mostly in agreement will need to be discussed in am.
   - Verbally confirmed w/ PCP influenza [**Name Initial (PRE) **] + on [**9-9**].
   - Hct dropped from 25->21 but hepatology recommended against giving her
   products to avoid alloimmunization.
   - PTT trended up to >150
   - FYI'd Nsurg that we may need a bolt for ICP monitoring\
   - After long discussion with transplant surgery, neurology and liver
   fellow decided not to place bolt for intracranial monitoring.
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Compazine (Injection) (Prochlorperazine Edisylate)
   itching;
   Last dose of Antibiotics:
   Vancomycin - [**2194-9-19**] 07:50 PM
   Acyclovir - [**2194-9-20**] 02:25 AM
   Piperacillin/Tazobactam (Zosyn) - [**2194-9-20**] 02:25 AM
   Metronidazole - [**2194-9-20**] 05:37 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2194-9-19**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-9-20**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 38.4
C (101.1
   HR: 124 (109 - 144) bpm
   BP: 101/54(68) {82/47(58) - 119/65(80)} mmHg
   RR: 25 (20 - 51) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 10 (5 - 12)mmHg
   Total In:
                                                                  4,393 mL
                                                                  1,087 mL
   PO:
   TF:
   IVF:
                                                                  4,243 mL
                                                                  1,027 mL
   Blood products:
   Total out:
                                                                  1,187 mL
                                                                    255 mL
   Urine:
                                                                  1,187 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,206 mL
                                                                    832 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.36/35/98.[**Numeric Identifier 20**]/20/-4
   Ve: 16 L/min
   PaO2 / FiO2: 196
   Physical Examination
   Gen: Sedated on vent, not responding to commands but grabbing for tubes
   HEENT: Pupils equal and reactive
   Heart: Regular, tachycardic
   Lungs: Decreased BS in the bases
   Abd: Distended, BS+, rectal tube in place w/ watery brown stool
   Ext: No edema, Warm/WP
   Labs / Radiology
   127 K/uL
   7.1 g/dL
   78 mg/dL
   1.4 mg/dL
   20 mEq/L
   5.0 mEq/L
   32 mg/dL
   111 mEq/L
   134 mEq/L
   21.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2194-9-18**]  08:13 PM
                             [**2194-9-19**]  12:48 AM
                             [**2194-9-19**]  02:06 AM
                             [**2194-9-19**]  07:51 AM
                             [**2194-9-19**]  01:35 PM
                             [**2194-9-19**]  05:50 PM
                             [**2194-9-19**]  05:56 PM
                             [**2194-9-19**]  08:11 PM
                             [**2194-9-20**]  01:11 AM
                             [**2194-9-20**]  01:21 AM
   WBC
   8.4
   8.5
   7.7
   Hct
   27
   26
   23.6
   25.2
   21.1
   21.5
   21.3
   Plt
   178
   176
   154
   154
   127
   Cr
   0.8
   1.2
   1.4
   TCO2
   20
   20
   19
   21
   21
   Glucose
   42
   64
   37
   78
   Other labs: PT / PTT / INR:21.5/54.0/2.0, CK / CKMB / Troponin-T:132//,
   ALT / AST:[**Telephone/Fax (1) 8954**], Alk Phos / T Bili:145/8.0, Amylase / Lipase:69/52,
   Differential-Neuts:57.0 %, Band:23.0 %, Lymph:10.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:5.0 mmol/L, Albumin:1.6 g/dL, LDH:[**2122**] IU/L,
   Ca++:6.7 mg/dL, Mg++:3.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   34 y.o. F with Crohn's disease on Imuran and Pentasa with + flu, +
   mycoplasma, now with respiratory distress.
   .
   # Acute liver failure: Asterixis on exam, but mental status A&O x 3
   prior to intubation, difficult to follow exam overnight and discussed
   with neurology, liver fellow and transplant surgery team whether to
   place bolt for ICP monitoring.  Cr rising appears to be developing HRS.
   Bili and LFTs have stabilized. Became hypoglycemic to 44 overnight so
   started on D5NS at 100cc/hr. Prelim liver bx was negative for lymphoma.
   - Consider Transfer to Transplant surgery service will need Attg to
   Attg to Attg discussion
   - Albumin 60g daily
   - urine lytes being checked, will aslo check UA
   - consider midodrine/octreotide will d/w hepatology
   - appreciate hepatology recs
   - trend LFTs, bili, coags, lactate q 6 hours
   - monitor FS q 2 hours
   - ABGs prn for decreasing bicarb to assess pH
   - f/u on labs, send-outs
   - f/u CMV PCR, adenovirus PCR, HSV, influenza
   - f/u ID recs
   - F/u neuro recs
   - Discuss with heme BM biopsy
   - monitor mental status
   - Limit sedation if possible
   - lactulose 30 ml TID for 3 BMs
   .
   # Respiratory Distress: Tachypneic.  Per PCP her flu swab was + on [**9-9**].
   She was intubated electively for liver biopsy with plan to extubate
   this morning.
   - monitor RR
   - ABGs prn
   - f/u sputum culture
   - treat pna as above with vanc/zosyn/azithromycin
   - f/u urine legionella
   - wean and plan on extubation after trasnfer to SICU later today
   # Elevated ICP: papilledema seen on eye exam, concern for elevated ICP
   from liver failure.
   - neuro following
   - will assess MS [**First Name (Titles) **] [**Last Name (Titles) **]
   - hold of on bolt for now
   # Sepsis: Meets [**3-5**] SIRS criteria and likely source is chest / abdomen
   given OSH chest CT findings.  Also given liver abnormalities, ascites
   on exam, history of Crohn's on immunosuppression, abdominal etiology
   cannot be ruled out. Fever could also be from necrotic liver.
   - f/u culture (sputum, urine, blood culture)
   - trend lactate
   - IVF boluses to keep MAP > 60, pressors if decompensates
   - vancomycin and zosyn for broad coverage, azithromycin for known
   mycoplasma, flagyl for colitis, ACV for possible HSV
   - droplet precautions
   - f/u CT torso final read
   # Crohn's: hold immunosuppressants
   # Anemia: Hct 21.  Discussed with liver team and avoiding products
   unless signs of active bleeding to avoid alloimmunization
   - guiaic all stools
   - active T&S
   - trend Hct
   - telemetry
   # FEN: IVFs / replete lytes prn / NPO except meds
   # PPX: pneumoboots, bowel regimen
   # ACCESS: PIV, OSH PICC , CVL
   # CODE: FULL (confirmed)
   # CONTACT: [**Name (NI) 3197**] [**Telephone/Fax (1) 8929**], [**Telephone/Fax (1) 8930**] (husband), [**Name (NI) **] [**Name (NI) 528**]
   [**Telephone/Fax (1) 8931**]
   # DISPO: [**Hospital 704**] transfer to SICU today
   ICU Care
   Nutrition: NPO except med
   Glycemic Control:
   Lines:
   PICC Line - [**2194-9-18**] 07:10 PM
   20 Gauge - [**2194-9-18**] 11:30 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  protocol
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: [**Hospital **] transfer to SICU today

2194-09-20 08:46:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hepatic failure, respiratory failure
   HPI:
   34yo F with viral illness early [**Month (only) 779**], superimposed atypical
   pneumonia and now fulminant hepatic faliure; now intubated for liver
   biopsy with signs of increased intracranial pressure, now listed for
   transplant.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2194-9-19**] 11:01 AM
 MAGNETIC RESONANCE IMAGING - At [**2194-9-20**] 12:03 AM
 FEVER - 103.3
F - [**2194-9-19**] 12:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Sulfa (Sulfonamides)
   Unknown;
   Compazine (Injection) (Prochlorperazine Edisylate)
   itching;
   Last dose of Antibiotics:
   Acyclovir - [**2194-9-20**] 02:25 AM
   Piperacillin/Tazobactam (Zosyn) - [**2194-9-20**] 02:25 AM
   Metronidazole - [**2194-9-20**] 05:37 AM
   Vancomycin - [**2194-9-20**] 08:00 AM
   Azithromycin - [**2194-9-20**] 08:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Dextrose 50% - [**2194-9-19**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-9-20**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 38.4
C (101.2
   HR: 134 (109 - 144) bpm
   BP: 115/61(77) {82/47(58) - 119/65(80)} mmHg
   RR: 33 (20 - 51) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 6 (5 - 12)mmHg
   Total In:
                                                                  4,393 mL
                                                                  1,399 mL
   PO:
   TF:
   IVF:
                                                                  4,243 mL
                                                                  1,249 mL
   Blood products:
   Total out:
                                                                  1,187 mL
                                                                    320 mL
   Urine:
                                                                  1,187 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,206 mL
                                                                  1,079 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.36/35/98.[**Numeric Identifier 20**]/20/-4
   Ve: 16 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: sedated, intubated
   Eyes / Conjunctiva: constricted, reactive
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   transmitted vent sounds, no wheezes
   Abdominal: Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, b/l non-pitting upper extremity edema
   Skin:  Warm, no rashes
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   127 K/uL
   78 mg/dL
   1.4 mg/dL
   20 mEq/L
   5.0 mEq/L
   32 mg/dL
   111 mEq/L
   134 mEq/L
   21.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2194-9-18**]  08:13 PM
                             [**2194-9-19**]  12:48 AM
                             [**2194-9-19**]  02:06 AM
                             [**2194-9-19**]  07:51 AM
                             [**2194-9-19**]  01:35 PM
                             [**2194-9-19**]  05:50 PM
                             [**2194-9-19**]  05:56 PM
                             [**2194-9-19**]  08:11 PM
                             [**2194-9-20**]  01:11 AM
                             [**2194-9-20**]  01:21 AM
   WBC
   8.4
   8.5
   7.7
   Hct
   27
   26
   23.6
   25.2
   21.1
   21.5
   21.3
   Plt
   178
   176
   154
   154
   127
   Cr
   0.8
   1.2
   1.4
   TCO2
   20
   20
   19
   21
   21
   Glucose
   42
   64
   37
   78
   Other labs: PT / PTT / INR:21.5/54.0/2.0, CK / CKMB / Troponin-T:132//,
   ALT / AST:[**Telephone/Fax (1) 8954**], Alk Phos / T Bili:145/8.0, Amylase / Lipase:69/52,
   Differential-Neuts:57.0 %, Band:23.0 %, Lymph:10.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:6.4 mmol/L, Albumin:1.6 g/dL, LDH:[**2122**] IU/L,
   Ca++:6.7 mg/dL, Mg++:3.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 Hepatic Failure: unclear etiology, preliminary read no lymphoma.  CMV
   VL pending, awaiting also EBV, RPR and Varicella
   - empiric treatment with acyclovir
   - now listed for transplant, holding off on bolt as hoping to follow
   mental status post extubation
   - trending liver studies, lactate stable for now, awaiting many studies
   for etiology
   - on lactulose, was following commands overnight
   - bone marrow biopsy for lymphoma given imuran use, though liver biopsy
   was negative and bone marrow less sensitive
 Mechanical Intubation
   - intubated for biopsy, able to follow commands when more lightly
   sedated
   - in discussion with transplant team, plan to wean sedation in the SICU
   and extubate to allow mental status monitoring
 Hypoglycemia: BS 44 over night, likely [**2-3**] liver failure
   - on D5NS, no further episdoes of hypoglycemia
   - continue close monitoring
 Renal Failure: ? HRS v. ATN v. acylcovir injury
   - low urine output with increasing creatinine, s/p IVF
   - will give albumin today and try to mobilize fluid
   - spin urine, look for crystals, etc.
 Fever: ? unidentified viral illness v. liver necrosis
   - vancomycin, zosyn, flagyl and azithromycin
   - no new culture data
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2194-9-18**] 07:10 PM
   Arterial Line - [**2194-9-19**] 01:19 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: will start PPI today
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: